US08871802B2
Preparation of 3-phenyl-naphtho[2,3-b]furan-4,9-dione
To the solution of 5 grams (33.5 mmoles) of [(E)-2-nitroethenyl]benzene in 100 mL of dichloromethane, 5.6 grams (35.2 mmoles) of bromine was added. The mixture was refluxed for 12 hours, and then evaporated to dryness. To the residue solution in 150 mL of tetrahydrofuran cooled in ice bath, 5.3 grams (35.2 mmoles) of 1,8-Diazabicyclo[5.4.0]undec-7-ene (DBU) was dropped slowly over 20 minutes while stirring vigorously. The reaction mixture was further stirred for 30 minutes in ice bath, then 5.8 grams (33.5 mmoles) of 2-hydroxy-1,4-naphthoquinone and 5.3 grams (35.2 mmoles) of 1,8-Diazabicyclo[5.4.0]undec-7-ene (DBU) were added. The mixture was reflux for 3 hours, and then evaporated to sticky residue. The residue was dissolved in 300 mL of dichloromethane, and washed with 300 mL of water, 300 mL of 2% aqueous citric acid solution, successively, and dried with 30 grams of anhydrous sodium sulfate. The 3-phenyl-naphtho[2,3-b]furan-4,9-dione product was purified with silica gel column using dichloromethane/hexane (3:1) as elution solvent. 6.4 grams of product (overall yield 70%) was obtained and characterized by 1H NMR and mass spectrum. 1H NMR (in DMSO) δ 7.44-7.52 (m, 3H), 7.77-7.79 (m, 2H), 7.89-7.93 (m, 2H), 8.10-8.15 (m, 2H), 8.58 (s, 1H). Mass (M+H) is 275.

reactant | [(E)-2-nitroethenyl]benzene | 33.5 mmoles, 5 grams | [N+](=O)([O-])/C=C/C1=CC=CC=C1 | C8H7NO2
reactant | bromine | 35.2 mmoles, 5.6 grams | BrBr | Br2
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 35.2 mmoles, 5.3 grams | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-hydroxy-1,4-naphthoquinone | 33.5 mmoles, 5.8 grams | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 35.2 mmoles, 5.3 grams | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-phenyl-naphtho[2,3-b]furan-4,9-dione | 6.4 grams, yield 70% | C1(=CC=CC=C1)C=1C2=C(OC1)C(C1=CC=CC=C1C2=O)=O | C18H10O3
